US08227468B2
4-Fluoro-N-[(3R,4S)-3-hydroxy-6-[4-(oxetan-3-yl)piperazin-1-yl]chroman-4-yl]benzamide
Add sodium triacetoxyborohydride (20 g, 94.4 mmol) to a slurry of 4-fluoro-N-[(3R,4S)-3-hydroxy-6-piperazin-1-yl-chroman-4-yl]benzamide hydrochloride (32.0 g, 78.5 mmol) and 3-oxetanone (6.87 g, 98.1 mmol) in acetonitrile (300 mL). Stir the slurry for 20 min. and add more sodium triacetoxyborohydride (20 g, 94.4 mmol) in one portion. Stir the brown mixture at 28° C. for approximately 2 hr. Add additional sodium triacetoxyborohydride (10 g, 47.2 mmol) and stir the mixture for 30 min. Add 3-oxetanone (2 g, 28.6 mmol) and after 20 min add additional 3-oxetanone (1 g, 14.3 mmol). Stir for 30 min., pour the mixture into a saturated aqueous sodium bicarbonate solution (1 L) and add dichloromethane (1 L). Separate the organic layer and concentrate in vacuo to obtain a pale grey solid. Purify the solid by silica gel column chromatography eluting with 3 to 6% isopropanol/dichloromethane to obtain the title compound as a white solid (19.2 g, 73%). LC-ES/MS m/z 428 [M+H]+.

reactant | sodium triacetoxyborohydride | 94.4 mmol, 20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-fluoro-N-[(3R,4S)-3-hydroxy-6-piperazin-1-yl-chroman-4-yl]benzamide hydrochloride | 78.5 mmol, 32.0 g | Cl.FC1=CC=C(C(=O)N[C@@H]2[C@H](COC3=CC=C(C=C23)N2CCNCC2)O)C=C1
reactant | 3-oxetanone | 98.1 mmol, 6.87 g | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 94.4 mmol, 20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 47.2 mmol, 10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-oxetanone | 28.6 mmol, 2 g | O1CC(C1)=O | C3H4O2
reactant | 3-oxetanone | 14.3 mmol, 1 g | O1CC(C1)=O | C3H4O2
reactant | sodium bicarbonate | 1 L | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 4-Fluoro-N-[(3R,4S)-3-hydroxy-6-[4-(oxetan-3-yl)piperazin-1-yl]chroman-4-yl]benzamide | 19.2 g, 73% | FC1=CC=C(C(=O)N[C@@H]2[C@H](COC3=CC=C(C=C23)N2CCN(CC2)C2COC2)O)C=C1 | C23H26FN3O4
